US07652007B2
b) 2-Amino-3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropylpropionamide
A solution of 530 mg (0.915 mmol) of 3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropyl-2-methylpropionamide in 15 ml of a 20% diethylamine DCM solution is stirred at room temperature overnight. The reaction mixture is concentrated in vacuo and purified by chromatography on 5 g of SiO2 (eluent DCM followed by 20% EtOAc/DCM followed by 20% MeOH/DCM). 320 mg of the desired product are obtained as an oil. MW=356.19 (calculated, monoisotopic); measured value (M+H)+=357

reactant | 3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropyl-2-methylpropionamide | 0.915 mmol, 530 mg | ClC1=CC=C(C=C1)CC(C(=O)N(C(C)C)CC(OCC)OCC)C | C19H30ClNO3
reactant | diethylamine DCM | C(C)NCC.C(Cl)Cl
product | 2-Amino-3-(4-chlorophenyl)-N-(2,2-diethoxyethyl)-N-isopropylpropionamide | 320 mg | NC(C(=O)N(C(C)C)CC(OCC)OCC)CC1=CC=C(C=C1)Cl | C18H29ClN2O3
